US07714009B2
A mixture of 2.25 g (12.5 mmol) of 3-nitrophenylisothiocyanate and 1.4 mL (10 mmol) of mesityl amine in 10 mL of methanol was stirred at room temperature for 2 h. The resulting precipitate was collected by filtration and dried to give a quantitative yield of 1-(3-nitrophenyl)-3-(mesityl)thiourea. To 1.8 g (5.7 mmol) of the thiourea thus prepared slurried in 20 mL of CCl4 was added 0.35 mL (6.9 mmol) of bromine. The mixture was heated at reflux for 4 h, allowed to cool to room temperature and diluted with dichloromethane. This solution was washed successively with saturated sodium bicarbonate, water and brine before being dried over sodium sulfate. The solution was filtered, concentrated in vacuo and the resulting crude title compound was obtained in quantitative yield and was used without further purification.

reactant | 3-nitrophenylisothiocyanate | 12.5 mmol, 2.25 g | [N+](=O)([O-])C=1C=C(C=CC1)N=C=S | C7H4N2O2S
reactant | mesityl amine | 10 mmol, 1.4 mL | C1(=C(C(=CC(=C1)C)C)N)C | C9H13N
solvent | methanol | 10 mL | CO | CH4O
product | 1-(3-nitrophenyl)-3-(mesityl)thiourea | quantitative yield | [N+](=O)([O-])C=1C=C(C=CC1)NC(=S)NC1=C(C=C(C=C1C)C)C | C16H17N3O2S
